US06184242B2
4-(4-Dimethylaminosulfonylbenzyl)-nitrobenzene (311 mg) was dissolved in ethyl acetate and hydrogenated at 40 psi using a 10% palladium on carbon catalyst for 2 hours. The mixture was filtered, and solvents evaporated to give 4-(4-dimethylaminosulfonylbenzyl)-phenylamine as a white solid (288 mg, 99%).

reactant | 4-(4-Dimethylaminosulfonylbenzyl)-nitrobenzene | 311 mg | CN(S(=O)(=O)C1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1)C | C15H16N2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(4-dimethylaminosulfonylbenzyl)-phenylamine | 288 mg, 99% | CN(S(=O)(=O)C1=CC=C(CC2=CC=C(C=C2)N)C=C1)C | C15H18N2O2S
